US06960614B2
Diethylazodicarboxylate was added dropwise over 45 min to a stirring solution of (2-hydroxy-ethyl)-methyl-carbamic acid tert-butyl ester (7.10 g, 40.5 mmol), N-hydroxyphthalimide (7.17 g, 44.0 mmol) and triphenylphosphine (11.5 g, 43.8 mmol) in tetrahydrofuran (150 mL). The resultant reaction mixture was stirred 22 h at ambient temperature and was concentrated in vacuo to a thick oil. Chloroform (200 mL) was added and the resultant solution was chilled to affect crystallization of diethyl 1,2-hydrazaine dicarboxylate. The precipitate was filtered and the filtrate was concentrated and further diluted with hexanes. A single crystal of triphenylphosphine oxide was added. The resultant crystals of triphenylphoshine oxide were removed by filtration and the filtrate was concentrated in vacuo and chromatographed on silica gel to afford [2-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester (12.8 g, 98% yield) as a colorless oil: 1H NMR (400 Mz, DMSO-d6) δ 7.86 (bs, 4H), 8.55 (bs, H), 4.24 (t, J=5.5 Hz, 2H), 3.50 br t, J=5.4 Hz, 2H), 2.92 and 2.88 (br s, 3H), 1.39 and 1.36 (br s, 9H).

reactant | Diethylazodicarboxylate | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | (2-hydroxy-ethyl)-methyl-carbamic acid tert-butyl ester | 40.5 mmol, 7.10 g | C(C)(C)(C)OC(N(C)CCO)=O | C8H17NO3
reactant | N-hydroxyphthalimide | 44.0 mmol, 7.17 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 43.8 mmol, 11.5 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
product | [2-(1,3-dioxo-1,3-dihydro-isoindol-2-yloxy)-ethyl]-methyl-carbamic acid tert-butyl ester | 12.8 g, 98% yield | C(C)(C)(C)OC(N(C)CCON1C(C2=CC=CC=C2C1=O)=O)=O | C16H20N2O5
